US06900215B2
A mixture of 3-(5-bromo-2-methylphenyl)pyridine (0.87 g, 3.5 mmol), bis(neopentyl glycolato)diborane (0.79 g, 3.5 mmol), KOAc (1.03 g, 10.5 mmol) and Pd(dppf)Cl2 (143 mg, 5 mol %) in 1,4-dioxane (30 ml) was degassed with a stream of N2 for 10 min and then heated at 110° C. for 16 h. The reaction mixture was concentrated under reduced pressure and H2O (100 ml) was added, and then was extracted with diethyl ether (2×75 ml). The combined ethereal extracts were extracted with 4N NaOH (3×50 ml). These combined basic extracts were neutralised with conc. HCl and then back-extracted with dichloromethane (3×100 ml). The combined organic filtrates were washed with brine (50 ml) and dried (MgSO4) to give 3-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-methylphenyl]pyridine (469 mg, 48%): δH (360 MHz, CDCl3) 1.04 (6H, s), 2.28 (3H, s), 3.77 (4H, s), 7.28-7.40 (2H, m), 7.63-7.80 (3H, m), 8.53-8.65 (2H, m).

reactant | 3-(5-bromo-2-methylphenyl)pyridine | 3.5 mmol, 0.87 g | BrC=1C=CC(=C(C1)C=1C=NC=CC1)C | C12H10BrN
reactant | bis(neopentyl glycolato)diborane | 3.5 mmol, 0.79 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | KOAc | 10.5 mmol, 1.03 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 143 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-methylphenyl]pyridine | 469 mg, 48% | CC1(COB(OC1)C=1C=CC(=C(C1)C=1C=NC=CC1)C)C | C17H20BNO2
